CAN mixed-signal - driving a node to BUS-OFF (Day 39)
* ============================================================
* The complete fault-confinement chain on the analog PHY.
*
* Node A transmits repeatedly into a bus that is periodically
* corrupted by a fault injector. Each corrupted frame produces
* bit errors, TEC climbs by 8 each time, and the node should
* progress:
*
*   error-active  -> error-passive (TEC >= 128)
*                 -> BUS OFF       (TEC >= 256)
*
* WHY THIS MATTERS
*   Fault confinement is what makes CAN usable in a car. A node
*   with a broken transceiver must remove itself from the bus
*   rather than jam it forever. Everything up to now has shown
*   the protocol working; this shows it FAILING SAFELY.
*
* THE FAULT INJECTOR
*   Vfault pulls CANH to CANL through a low resistance for a few
*   bit times, periodically. That is electrically a partial short
*   across the differential pair - a realistic wiring fault, not
*   an abstract "flip a bit".
*
* EXPECTED TIMELINE
*   ~32 bit errors are needed for bus-off at +8 each.
*   Day 36 measured about 3 bit errors per corrupted frame, so
*   roughly 11 corrupted frames, about 5 ms.
*
* NODE B is present and healthy, so it can acknowledge frames
* when they are not corrupted - otherwise every frame would fail
* for lack of an ACK and the test would prove nothing about
* the fault injector.
* ============================================================

.param VCC_V = 5.0
.param RON   = 45

Vcc  vcc  0 DC {VCC_V}
Vref vref 0 DC 2.5

Vclk clk_a 0 PULSE(0 5 0 5n 5n 245n 500n)
Rclk clk_a 0 1meg

Vrst rst_a 0 PWL(0 0  1.9u 0  2.0u 5)
Rrst rst_a 0 1meg

* ============ node A transmits repeatedly ============
* a request every 500 us, so a new frame starts as soon as the
* previous one finishes or is destroyed
VreqA reqA_a 0 PULSE(0 5 10u 20n 20n 2u 500u)
RreqA reqA_a 0 1meg

* node B never transmits - it only listens and acknowledges
VreqB reqB_a 0 DC 0
RreqB reqB_a 0 1meg

* ============ id_sel ============
VsA1 selA1 0 DC 0
VsA0 selA0 0 DC 0
VsB1 selB1 0 DC 0
VsB0 selB0 0 DC 5
RsA1 selA1 0 1meg
RsA0 selA0 0 1meg
RsB1 selB1 0 1meg
RsB0 selB0 0 1meg

.model adcmod adc_bridge(in_low=1.5 in_high=3.5)
.model dacmod dac_bridge(out_low=0 out_high=5 out_undef=2.5
+                        t_rise=20n t_fall=20n)

Aclk  [clk_a]  [clk_d]  adcmod
Arst  [rst_a]  [rst_d]  adcmod
AreqA [reqA_a] [reqA_d] adcmod
AreqB [reqB_a] [reqB_d] adcmod
AsA1  [selA1] [selA1_d] adcmod
AsA0  [selA0] [selA0_d] adcmod
AsB1  [selB1] [selB1_d] adcmod
AsB0  [selB0] [selB0_d] adcmod
Arx   [rx_ana] [rx_d]   adcmod

* ============ two controllers ============
aA [clk_d] [rst_d] [rx_d] [reqA_d] [selA1_d selA0_d]
+  [txA_d] [busyA_d] [doneA_d] [arbA_d] [rxvA_d]
+  [efA_d] [boA_d] nodeA
.model nodeA can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9
+                         input_load=1.0e-12 instance_id=1)

aB [clk_d] [rst_d] [rx_d] [reqB_d] [selB1_d selB0_d]
+  [txB_d] [busyB_d] [doneB_d] [arbB_d] [rxvB_d]
+  [efB_d] [boB_d] nodeB
.model nodeB can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9
+                         input_load=1.0e-12 instance_id=2)

* ============ measurement taps ============
AmefA [efA_d]  [efA_a]  dacmod
AmboA [boA_d]  [boA_a]  dacmod
AmboB [boB_d]  [boB_a]  dacmod
AmdnA [doneA_d] [doneA_a] dacmod
AmbsA [busyA_d] [busyA_a] dacmod
AmrvB [rxvB_d]  [rxvB_a]  dacmod
RmefA efA_a 0 1meg
RmboA boA_a 0 1meg
RmboB boB_a 0 1meg
RmdnA doneA_a 0 1meg
RmbsA busyA_a 0 1meg
RmrvB rxvB_a 0 1meg

* ============ drivers ============
AdacA [txA_d] [txA_a] dacmod
AdacB [txB_d] [txB_a] dacmod
BdrvA ctrlA 0 V = 5 - V(txA_a)
BdrvB ctrlB 0 V = 5 - V(txB_a)

.model swmod SW(Vt=2.5 Vh=0.2 Ron={RON} Roff=1e9)
ShA vcc  canh ctrlA 0 swmod
SlA canl 0    ctrlA 0 swmod
ShB vcc  canh ctrlB 0 swmod
SlB canl 0    ctrlB 0 swmod

* ============ bus ============
Rterm_a canh canl 120
Rterm_b canh canl 120
Rbias1  canh vref 10k
Rbias2  canl vref 10k
Cbush   canh 0 500p
Cbusl   canl 0 500p
Rleak1  canh 0 100meg
Rleak2  canl 0 100meg

* ============ THE FAULT INJECTOR ============
* A switch that shorts CANH to CANL through 10 ohm, closing for
* 60 us (about 7 bit times) every 200 us. Electrically this is a
* partial short across the differential pair: a realistic wiring
* fault. While closed the differential voltage collapses and the
* comparator reads recessive regardless of what any node drives,
* so a transmitting node sees its dominant bits disappear - a
* BIT ERROR every time.
Vfault flt 0 PWL(0 0 119u 0 120u 5)
Rflt flt 0 1meg
Sfault canh canl flt 0 fltmod
.model fltmod SW(Vt=2.5 Vh=0.2 Ron=10 Roff=1e9)

Bdiff vdiff 0 V = V(canh) - V(canl)
Rdiff vdiff 0 1meg
Bcomp rx_ana 0 V = 2.5*(1 - tanh(10*(V(canh)-V(canl)-0.7)))
Rcomp rx_ana 0 1meg

* 6 ms: long enough for TEC to climb past 256 at +8 per bit error
.tran 200n 6000u

.control
  run

  echo ""
  echo "============ FAULT CONFINEMENT ============"
  echo ""
  echo "--- did node A go BUS OFF? ---"
  meas tran boA_max MAX v(boA_a) FROM=10u TO=6000u
  meas tran boA_when WHEN v(boA_a)=2.5 RISE=1
  echo ""
  echo "--- node B is healthy and must NOT go bus off ---"
  meas tran boB_max MAX v(boB_a) FROM=10u TO=6000u
  echo ""
  echo "--- error frames from node A ---"
  meas tran efA_max MAX v(efA_a) FROM=10u TO=6000u
  echo ""
  echo "--- did node A stop transmitting after bus-off? ---"
  meas tran busy_late MAX v(busyA_a) FROM=5700u TO=6000u
  meas tran busy_verylate MAX v(busyA_a) FROM=5800u TO=6000u
  echo ""
  echo "--- bus differential during a fault window ---"
  meas tran vd_fault FIND v(vdiff) AT=150u
  meas tran vd_clean FIND v(vdiff) AT=100u
  echo ""
  echo "============ EXPECTED ============"
  echo "  boA_max   = 5 V  node A removed itself from the bus"
  echo "  boA_when  the moment TEC crossed 256"
  echo "  boB_max   = 0 V  the healthy node is unaffected"
  echo "  efA_max   = 5 V  node A signalled errors before giving up"
  echo "  busy_late = 0 V  a bus-off node must stop transmitting"
  echo "  vd_fault near 0  the short collapses the differential"
  echo ""
.endc

.end
